US04874773
Preparation of methyl o-nitrobenzylideneacetoacetate:
o-Nitrobenzaldehyde (7.6 g, 0.05 mole) and methyl acetoacetate (5.8 g, 0.05 mole) are dissolved in benzene (40 ml), and thereto are added piperidine (0.2 ml) and acetic acid (0.6 ml), and the mixture is refluxed for 5 hours. The produced water is removed, and when a stoichiometic amount of water is distilled off, the reaction is stopped. After completion of the reaction, the reaction mixture is washed with 5% hydrochloric acid and then with water, and the solvent is distilled off under reduced pressure to give the title compound (12.2 g, yield 98%) as a brown oil.

reactant | o-Nitrobenzaldehyde | 0.05 mole, 7.6 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | methyl acetoacetate | 0.05 mole, 5.8 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | methyl o-nitrobenzylideneacetoacetate | 12.2 g, yield 98% | [N+](=O)([O-])C1=C(C=CC(CC(=O)OC)=O)C=CC=C1 | C12H11NO5
